US04505913
2.7 g of 1-methylpiperazine are added slowly to a suspension of 10.2 g of 5-[N-(1-adamantyl)-sulfamoyl]-isatoic anhydride in 250 ml of absolute toluene, at 100° with stirring. After the addition is ended, the mixture is stirred for a further 1 hour at 100° and is allowed to cool to room temperature, the precipitate is separated off by decanting and the crude product thus obtained is recrystallised from ethanol. 5-[N-(1-Adamantyl)-sulfamoyl]-anthranilic acid (4-methyl)-piperazide with a melting point of 214°-215° is obtained. (Melting point of the hydrochloride: 298°-300°).

reactant | 1-methylpiperazine | 2.7 g | CN1CCNCC1 | C5H12N2
reactant | 5-[N-(1-adamantyl)-sulfamoyl]-isatoic anhydride | 10.2 g | C12(CC3CC(CC(C1)C3)C2)NS(=O)(=O)C2=CC=C3C(C(=O)OC(N3)=O)=C2 | C18H20N2O5S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[N-(1-Adamantyl)-sulfamoyl]-anthranilic acid (4-methyl)-piperazide | CN1CCN(CC1)C(C=1C(N)=CC=C(C1)S(NC12CC3CC(CC(C1)C3)C2)(=O)=O)=O | C22H32N4O3S
